US06686381B2
{5-[4-Methyl-5-(2-methyl-benzoyl)-thiazol-2-ylamino]-pentyl}-carbamic Acid tert-Butyl Ester
To a solution of 290 mg (0.96 mmol) {5-[3-(1-Amino-ethylidene)-thioureido]-pentyl}-carbamic acid tert-butyl ester in 5 ml ethanol was added 213 mg (1 mmol) o-Methylphenacyl bromide and 139 μl NEt3 and allowed to stir for 5 h at room temperature. Afterwards the mixture was directly applied to preparative HPLC on reversed phase eluting with an acetonitrile/water gradient. The evaporation of the product fractions yielded 180 mg (45%) of the title compound.

reactant | {5-[3-(1-Amino-ethylidene)-thioureido]-pentyl}-carbamic acid tert-butyl ester | 0.96 mmol, 290 mg | C(C)(C)(C)OC(NCCCCCNC(=S)N=C(C)N)=O | C13H26N4O2S
reactant | o-Methylphenacyl bromide | 1 mmol, 213 mg | CC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO
reactant | NEt3 | 139 μl | CCN(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | {5-[4-Methyl-5-(2-methyl-benzoyl)-thiazol-2-ylamino]-pentyl}-carbamic Acid tert-Butyl Ester | 180 mg, 45% | C(C)(C)(C)OC(NCCCCCNC=1SC(=C(N1)C)C(C1=C(C=CC=C1)C)=O)=O | C22H31N3O3S
